US06949542B2
{2′-Fluoro-3-[3-oxo-3-(3-pyridin-2-yl-phenyl)-propionylamino]-biphenyl-4-yl}-carbamic acid tert-butyl ester
The title compound was prepared from (3-amino-2′-fluoro-biphenyl-4-yl)-carbamic acid tert-butyl ester [CAS-No. 335255-65-7] (227 mg, 0.75 mmol) and 3-oxo-3-(3-pyridin-2-yl-phenyl)-propionic acid tert-butyl ester (Example K3) (223 mg, 0.75 mmol) according to the general procedure M. Obtained as a light yellow viscous oil (356 mg).

reactant | (3-amino-2′-fluoro-biphenyl-4-yl)-carbamic acid tert-butyl ester | 0.75 mmol, 227 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)N)=O | C17H19FN2O2
reactant | 3-oxo-3-(3-pyridin-2-yl-phenyl)-propionic acid tert-butyl ester | 0.75 mmol, 223 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=NC=CC=C1)=O)=O | C18H19NO3
product | {2′-Fluoro-3-[3-oxo-3-(3-pyridin-2-yl-phenyl)-propionylamino]-biphenyl-4-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)NC(CC(C1=CC(=CC=C1)C1=NC=CC=C1)=O)=O)=O | C31H28FN3O4
